US07238808B2
5-[4-Trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo [1,5-a]pyrimidin-8-ylethynyl]-pyridin-2-ylamine
The title compound was prepared from 8-ethynyl-4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine (example C.x) (178 mg, 0.5 mmol) and commercially available 6-amino-3-bromo-pyridine (86 mg, 0.5 mmol) according to general procedure II. Obtained as a dark red solid (70 mg, 31%). MS (EI) 448.1 [(M+)]; mp 225° C.

reactant | 8-ethynyl-4-trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo[1,5-a]pyrimidine | 0.5 mmol, 178 mg | C(#C)C=1N=CN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 6-amino-3-bromo-pyridine | 0.5 mmol, 86 mg | NC1=CC=C(C=N1)Br | C5H5BrN2
product | 5-[4-Trifluoromethyl-2-(4-trifluoromethyl-phenyl)-imidazo [1,5-a]pyrimidin-8-ylethynyl]-pyridin-2-ylamine | FC(C1=CC(=NC=2N1C=NC2C#CC=2C=CC(=NC2)N)C2=CC=C(C=C2)C(F)(F)F)(F)F | C21H11F6N5
